US04335054
3.91 mg (1.6×10-5 mols) of palladium acetate, 6.74 g (40 millimols) of 4-formylbenzoyl chloride, 2.63 ml (40 millimols) of acrylonitrile and 4.41 ml (40 millimols) of N-methylmorpholine, in 80 ml of p-xylene, are stirred for 5 hours. Working up as described in the preceding examples affords 0.53 g (8% of theory) of 4-formylcinnamonitrile.

reactant | 4-formylbenzoyl chloride | 40 millimols, 6.74 g | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
reactant | acrylonitrile | 40 millimols, 2.63 ml | C(C=C)#N | C3H3N
reactant | N-methylmorpholine | 40 millimols, 4.41 ml | CN1CCOCC1 | C5H11NO
solvent | p-xylene | 80 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | palladium acetate | 1.6×10-5 mols, 3.91 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-formylcinnamonitrile | 0.53 g, 8% | C(=O)C1=CC=C(C=CC#N)C=C1 | C10H7NO
